US07015218B1
5-Methyl-N-[4-(4-morpholinopiperidin-1-yl)-3-nitrophenyl]-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide
The reaction and treatment in the same manner as in Example 162 using N-(4-chloro-3-nitrophenyl)-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide (1.0 g) and 4-morpholinopiperidine (1.4 g), the title compound (0.12 g) was obtained, melting point: 225–230° C.

reactant | N-(4-chloro-3-nitrophenyl)-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide | 1.0 g | ClC1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C18H12ClF3N4O3
reactant | 4-morpholinopiperidine | 1.4 g | O1CCN(CC1)C1CCNCC1 | C9H18N2O
product | 5-Methyl-N-[4-(4-morpholinopiperidin-1-yl)-3-nitrophenyl]-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide | 0.12 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)[N+](=O)[O-] | C27H29F3N6O4
